Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
leg pain
 
Major Surgical or Invasive Procedure:
___ -- Revision distal fixation of left femur

 
History of Present Illness:
Ms ___ is a ___ h/o Alzheimer's dementia, h/o non-Hodgkin's
lymphoma s/p chemo, XRT, lymphadectomies (~ ___, recurrent R
breast phyllodes tumor s/p rsxn with recent Left femur 
metastatic
phyllodes tumor lesion s/p intramedullary rod placement on
___, who presents with worsening leg pain. 

Patient is unable to provide much history due to her dementia.
She tells me that she feels fine, does not have any pain. She is
not sure what brought her to the hospital. Her daughter ___
provides majority of history. She states that the patient has 
had
some degree of leg pain since ___. However, she has clearly
been in more pain in the past week, at times seemingly severe.
Associated with worsening leg swelling. Worsened with movement 
or
weight bearing. Somewhat improved with ibuprofen, Tylenol, and
ice. No known fevers or chills, and patient has not complained 
of
nausea, stomach pain, chest pain, shortness of breath. 

On review of records, patient was admitted from 
___
as a transfer after a CT scan showed a 13.6 cm long soft tissue
lesion within proximal to mid femur with extensive bony
destruction and 
endosteal scalloping. Given extensive cortical involvement that 
risked fracture, she subsequently underwent prophylactic 
fixation of femur with a metal rod on ___. Her course was also
notable for intermittent severe agitation. Following discharge,
she underwent radiation therapy. She presented to ___
on ___ with worsening of her left lower extremity swelling. A
DVT ultrasound was positive for a DVT, and she was started on
lovenox. 

In the ED:

Initial vital signs were notable for: T 97.7, HR 94, BP 146/101,
RR 16, 99% RA 

Labs were notable for:

- CBC: WBC 6.1, hgb 12.1, plt 269

- Lytes:

141 / 104 / 13     AGap=12 
-------------- 83 
4.2 \\ 25 \\ 0.8  
 
- coags: ___: 11.9  PTT: 33.6  INR: 1.1  

Studies performed include:

- femur plain films showing expansile lytic lesion in the left
femoral shaft has increased in size compared to the prior study.
Pathologic fracture seen medially is more conspicuous than on 
the
prior study. 1 of the nails in the distal femur has migrated
laterally with approximately 1.7 cm outside of the bone.

- LLE DVT ultrasound showing occlusive thrombus of the left
popliteal, peroneal, and posterior tibial veins. Nonocclusive
thrombus at the common femoral-greater saphenous vein junction.

Patient was started on a heparin drip, given tramadol for pain. 

Consults: Ortho was consulted, recommending admission for DVT
burden. Will likely need re-advancement of screw, but not
emergent. Recommended: 
- Recommend admission to medicine
- DVT treatment per primary
- NPO after midnight
- Pre-op labs, EKG, CXR

Vitals on transfer: T 98.1, HR 63, BP 134/74, RR 16, 97% RA 

Upon arrival to the floor, history is obtained as above. Patient
states she feels fine. Discussed code status briefly with ___,
who reports that they would want to do anything to save her 
life,
including chest compressions or intubation. 
 
Past Medical History:
Hypertension
Ovarian cyst and appendix resection after ex lap (___)
Biopsy of groin (___)
Breast biopsies ___ and then ___

 
Social History:
___
Family History:
She denies any known history of breast or ovarian
cancer. 

 
Physical Exam:
ADMISSION EXAM:

VITALS: T 98.6, HR 84, BP 113/77, RR 18, 95% RA 
GENERAL: Alert and in no apparent distress, oriented to self 
only
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: LLE with swelling and edema. No pain to palpation of left
thigh. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Patient examined on day of discharge. Able to flex her left hip 
without any pain. Distal pulses DP and ___ intact on left. Two 
stitches with surgical site without any evidence of erythema or 
swelling.
 
Pertinent Results:
LABORATORY RESULTS:

___ 03:10PM BLOOD WBC-6.1 RBC-4.10 Hgb-12.1 Hct-38.5 MCV-94 
MCH-29.5 MCHC-31.4* RDW-14.0 RDWSD-47.6* Plt ___
___ 06:25AM BLOOD WBC-4.9 RBC-3.53* Hgb-10.6* Hct-32.9* 
MCV-93 MCH-30.0 MCHC-32.2 RDW-14.1 RDWSD-48.2* Plt ___
___ 03:10PM BLOOD Glucose-83 UreaN-13 Creat-0.8 Na-141 
K-4.2 Cl-104 HCO3-25 AnGap-12
___ 08:50AM BLOOD Glucose-109* UreaN-13 Creat-0.7 Na-135 
K-4.0 Cl-100 HCO3-26 AnGap-9*
___ 07:14AM BLOOD ALT-34 AST-38 LD(LDH)-199 AlkPhos-46 
TotBili-0.3
___ 03:10PM BLOOD Calcium-10.2 Phos-3.4 Mg-2.0
___ 08:50AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.8

IMAGING:

CXR: No acute cardiopulmonary abnormality. 
 
FEMUR: Expansile lytic lesion in the left femoral shaft has 
increased in size compared to the prior study.  Pathologic 
fracture seen medially is more conspicuous than on the prior 
study. 

1 of the nails in the distal femur has migrated laterally with 
approximately 
1.7 cm outside of the bone. 

Lower extremity U/S:
  
Duplicated popliteal and femoral veins.  Deep venous thrombosis 
in 1 of the left popliteal veins and extending into the 
posterior tibial and peroneal veins. 

 
Brief Hospital Course:
Ms. ___ was admitted and initially placed on a heparin 
drip. She was seen by orthopedic surgery, and on ___ she was 
taken for a revision of her intramedullary rod with new screw 
placement. She tolerated the procedure without any 
complications. After the surgery, she was transitioned to 
apixaban for her malignancy-related DVT after discussion with 
Dr. ___ oncologist. She will start zolendronic acid as 
an outpatient; his office will call her to schedule. She will 
follow up with orthopedic surgery in two weeks.

HOSPITAL COURSE BY PROBLEM

1. Metastatic phylloides tumor with left femur lytic lesion and
pathologic fracture 
2. Migration of superior screw s/p intramedullary rod placement
- outpatient follow up with oncology and orthopedic surgery as 
below

3. LLE DVT. 
- apixaban 5 mg BID

> 30 minutes spent on discharge activities
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Exelon (rivastigmine) 4.6 mg/24 hr transdermal DAILY 
2. Atorvastatin 10 mg PO QAM 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Namenda XR (MEMAntine) 28 mg oral DAILY 
5. Acetaminophen 650 mg PO TID 
6. Enoxaparin Sodium 40 mg SC QPM 
7. Calcium Carbonate 500 mg PO QID:PRN dyspepsia 
8. Docusate Sodium 100 mg PO BID 
9. Senna 8.6 mg PO BID:PRN Constipation - First Line 
10. TraMADol 50 mg PO Q6H:PRN pain 
11. Multivitamins 1 TAB PO DAILY 
12. Fish Oil (Omega 3) 1000 mg PO DAILY 
13. flaxseed oil 1,000 mg oral DAILY 
14. ___ oil    miscellaneous unknown 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*60 Tablet Refills:*2 
2.  Acetaminophen 650 mg PO TID  
3.  Atorvastatin 10 mg PO QAM  
4.  Calcium Carbonate 500 mg PO QID:PRN dyspepsia  
5.  Docusate Sodium 100 mg PO BID  
6.  Exelon (rivastigmine) 4.6 mg/24 hr transdermal DAILY  
7.  Fish Oil (Omega 3) 1000 mg PO DAILY  
8.  flaxseed oil 1,000 mg oral DAILY  
9.  Levothyroxine Sodium 25 mcg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Namenda XR (MEMAntine) 28 mg oral DAILY  
12.  ___ oil    miscellaneous Frequency is Unknown  
13.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
14.  TraMADol 50 mg PO Q6H:PRN pain  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metastatic phylloides tumor to left leg
Failed fixation with screw migration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - with assistance

 
Discharge Instructions:
You were admitted to the hospital with left leg pain; an x-ray 
of your leg showed that you had a loose screw. Ultrasound also 
showed the DVT in your leg again. You had an orthopedic 
procedure to replace the screw, which went well. I spoke with 
Dr. ___ am switching you to apixaban instead of 
enoxaparin for your DVT. This will mean that you do not have to 
give yourself injections anymore. You will need to follow up 
with Dr. ___. I recommend pursuing Zometa (a bisphosphonate 
that can help stabilize the fracture) with him. It has been a 
pleasure taking care of you. Please let me know if there is 
anything else I can do.
 
Followup Instructions:
___